US08664404B2
A 1 L four-neck flask equipped with a stirrer, a thermometer and a condenser tube was charged with 82.6 g (0.5 mol) of 7-methyl-1,2-benzisothiazol-3-one, 80.4 g (1.1 mol) of N,N-dimethylformamide and 200.0 g of toluene. While stirring, 83.3 g (0.7 mol) of thionyl chloride was added dropwise thereto at 70° to 80° C. over 1 hour, and the mixture was reacted at the same temperature for 3 hours. After terminating the reaction, the liquid reaction mixture was concentrated, and a crude product obtained was distillated under reduced pressure of 0.40 kPa at 110° C. to give 81.7 g (0.45 mol) of 3-chloro-7-methyl-1,2-benzisothiazole. The yield based on 7-methyl-1,2-benzisothiazol-3-one was 89%.

reactant | 7-methyl-1,2-benzisothiazol-3-one | 0.5 mol, 82.6 g | CC1=CC=CC=2C(NSC21)=O | C8H7NOS
reactant | N,N-dimethylformamide | 1.1 mol, 80.4 g | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.7 mol, 83.3 g | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 200.0 g | C1(=CC=CC=C1)C | C7H8
product | 3-chloro-7-methyl-1,2-benzisothiazole | 0.45 mol, 81.7 g | ClC1=NSC2=C1C=CC=C2C | C8H6ClNS
